US07452993B2
Step 4: Synthesis of 2-Bromo-7-iodo-5H-pyrrolo[2,3-b]pyrazine
To a solution of 2-Bromo-5H-pyrrolo[2,3-b]pyrazine (258 mg, 1.3 mmol) in acetone (5 ml) was added N-iodosuccinimide (324 mg, 1.44 mmol) in one portion. The reaction mixture was stirred at room temperature for 45 minutes. The resulting precipitate was filtered off, washed with a minimal amount of acetone, and dried in vacuum to give the title compound as a light brown solid 1H-NMR (500 MHz, d6-DMSO) δ12.81 (s br, 1H), 8.40 (s, 1H), 8.19 (d, 3.0 Hz, 1H). MS: m/z 323.8/325.8 [MH+].

reactant | 2-Bromo-5H-pyrrolo[2,3-b]pyrazine | 1.3 mmol, 258 mg | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | N-iodosuccinimide | 1.44 mmol, 324 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-Bromo-7-iodo-5H-pyrrolo[2,3-b]pyrazine | BrC=1N=C2C(=NC1)NC=C2I | C6H3BrIN3
